US05840732
Synthesis of 3-[2-(imidazo[1,2-a]pyridin-5-ylthio)ethyl]-thiazolidine-2,4-dione
Using 2.29 g (10.8 mmol) of 5-(2-chloroethylthio)-imidazo[1,2-a]pyridine, 1.27 g (10.8 mmol) of thiazolidine-2,4-dione and 1.62 ml (10.8 mmol) of 1,8-diazabicyclo-[5.4.0]-7-undecene, the same procedure as in Reference Example 2 was followed, to yield 1.49 g (38.7%, light orange crystal) of the desired product.

reactant | 5-(2-chloroethylthio)-imidazo[1,2-a]pyridine | 10.8 mmol, 2.29 g | ClCCSC1=CC=CC=2N1C=CN2 | C9H9ClN2S
reactant | thiazolidine-2,4-dione | 10.8 mmol, 1.27 g | S1C(NC(C1)=O)=O | C3H3NO2S
product | 3-[2-(imidazo[1,2-a]pyridin-5-ylthio)ethyl]-thiazolidine-2,4-dione | N=1C=CN2C1C=CC=C2SCCN2C(SCC2=O)=O | C12H11N3O2S2
